US04965367
1-Methyl-1-(N-methylacetamido)silacyclobutane
To 30.02 g 1-chloro-1-methylsilacyclobutane was added 36.10 g N-methyl-N-(trimethylsilyl)acetamide. The reaction products were fractionally distilled. The title compound was isolated as a clear, colorless fluid with a boiling point of 68°-76° C. at 3.6 mm Hg. The yield was 31.56 g (86%). The product was identified by NMR and mass spectroscopy.

reactant | 1-chloro-1-methylsilacyclobutane | 30.02 g | Cl[Si]1(CCC1)C | C4H9ClSi
reactant | N-methyl-N-(trimethylsilyl)acetamide | 36.10 g | CN(C(C)=O)[Si](C)(C)C | C6H15NOSi
product | 1-Methyl-1-(N-methylacetamido)silacyclobutane | C[Si]1(CCC1)N(C(C)=O)C | C7H15NOSi
